US05623081
4-(Chloromethyl)-2,5-oxazolidinedione
The title compound is prepared by the procedure of Example 50 using 1.24 g of 2-chloro-L-alanine, 16 ml of 1.93M phosgene in toluene and 55 ml of tetrahydrofuran to give 0.150 g of the desired product.

reactant | 2-chloro-L-alanine | 1.24 g | Cl[C@](N)(C)C(=O)O | C3H6ClNO2
reactant | phosgene | 1.93M, 16 ml | C(=O)(Cl)Cl | CCl2O
reactant | tetrahydrofuran | 55 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(Chloromethyl)-2,5-oxazolidinedione | 0.150 g | ClCC1NC(OC1=O)=O | C4H4ClNO3
